US08563547B2
(S)—N-(6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)-3-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl) propanamide (22)
Under Ar, (S)-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine-6-amine (110 mg, 0.6 mmol) was dissolved in DMF (6 mL), cooled to 0° C., added Et3N (0.21 mL, 2 mmol), added 3-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl) propionyl chloride (291 mg, 0.75 mmol) in batches, naturally rose to room temperature and stirred for 3 h, added an appropriate amount of dichloromethane, washed by distilled water for 3 times, followed by anhydrous sodium sulphate drying, filtrated out drying agent and spinning dry, residuals were purified by column chromatography (eluent CH2Cl2: MeOH=30:1) to give 70 mg target product, yield was 23%.

reactant | 2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine-6-amine | 0.6 mmol, 110 mg | [N+](=O)([O-])C=1N=C2OCC(CN2C1)N | C6H8N4O3
reactant | Et3N | 2 mmol, 0.21 mL | CCN(CC)CC | C6H15N
reactant | 3-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl) propionyl chloride | 0.75 mmol, 291 mg | FC(OC1=CC=C(OC2CCN(CC2)CCC(=O)Cl)C=C1)(F)F | C15H17ClF3NO3
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (S)—N-(6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)-3-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl) propanamide | yield was 23% | [N+](=O)([O-])C=1N=C2OC[C@H](CN2C1)NC(CCN1CCC(CC1)OC1=CC=C(C=C1)OC(F)(F)F)=O | C21H24F3N5O6
